** Ideal Opamp
*
*
*           |╲  Vp
*           | ╲ |
*           |  ╲|
*    INon---| + ╲
*           |    〉---- out
*    IInv---| - ╱
*           |  ╱|
*           | ╱_|_
*           |╱  Vm

.subckt OPAMP INon IInv out Vp Vm g=100k
  bGain gain Vm v={g*v(INon, IInv)}
  bOut out Vm v={v(gain,Vm)> v(Vp,Vm) ? v(Vp,Vm) : v(gain,Vm) < v(Vm,Vm) ? v(Vm,Vm) : v(gain,Vm)}
.ends OPAMP
